US08431695B2
Step 3: Preparation of tert-butyl 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)azepane-1-carboxylate
To a dry flask purged with N2 was added platinum (IV) oxide (114 mg, 0.50 mmol) followed by tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2,3,4,7-tetrahydro-1H-azepine-1-carboxylate (1.66 mg, 5.04 mmol) as a solution in acetic acid (25 mL). The mixture was stirred under an H2 atmosphere for 16 h. Additional platinum (IV) oxide (114 mg, 0.50 mmol) was added and the reaction continued to stir under an H2 atmosphere for 20 h. The mixture was filtered through a pad of Celite® rinsing with acetic acid. The filtrate was concentrated under reduced pressure and the residue was dissolved in ethyl acetate (200 mL). The organic mixture was washed with saturated, aqueous NaHCO3 (1×200 mL) and the aqueous mixture was back extracted with ethyl acetate (2×75 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to dryness to afford 1.44 g (86%) of the desired product. ES-MS m/z 332.11 [M+H]+, HPLC RT (min) 2:46.

reactant | tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2,3,4,7-tetrahydro-1H-azepine-1-carboxylate | 5.04 mmol, 1.66 mg | NC1=NC=NN2C1=CC=C2C=2CCCN(CC2)C(=O)OC(C)(C)C | C17H23N5O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | platinum (IV) oxide | 0.50 mmol, 114 mg | [Pt](=O)=O
catalyst | platinum (IV) oxide | 0.50 mmol, 114 mg | [Pt](=O)=O
product | tert-butyl 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)azepane-1-carboxylate | 1.44 g, 86% | NC1=NC=NN2C1=CC=C2C2CCN(CCC2)C(=O)OC(C)(C)C | C17H25N5O2
